US07592358B2
IP 6b. (3R,4S)-4-trifluoromethylpiperidin-3,4-diol
The product was obtained analogously to intermediate product IP 5d starting from (3R,4S)-1-benzyl-4-trifluoromethylpiperidin-3,4-diol. Yield: 665 mg (91% of theoretical); C6H10F3NO2 (M=185.144); calc.: molpeak (M+H)+: 186; found: molpeak (M+H)+: 186; Rf value: 0.35 (silica gel, EtOAc/MeOH/conc. aqueous ammonia 7:3:0.3).

reactant | (3R,4S)-1-benzyl-4-trifluoromethylpiperidin-3,4-diol | C(C1=CC=CC=C1)N1C[C@H]([C@](CC1)(O)C(F)(F)F)O | C13H16F3NO2
reactant | ammonia | N | H3N
solvent | EtOAc MeOH | CCOC(=O)C.CO
product | (3R,4S)-4-trifluoromethylpiperidin-3,4-diol | FC([C@]1([C@@H](CNCC1)O)O)(F)F | C6H10F3NO2
